US07078414B2
c) 3-Carboxy-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole
0.63 g (15 mmol) of lithium hydroxide monohydrate is added at a temperature in the region of 20° C. to 1.35 g (5 mmol) of 1-(isoquinol-1-yl)-3-methoxycarbonyl-4-methyl-1H-pyrrole dissolved in 50 mL of tetrahydrofuran and 50 mL of water. After stirring at reflux for 25 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 20 mL of water and then triturated with 15 mL of 1N hydrochloric acid. After filtering off and drying the solid residue at ambient pressure at a temperature in the region of 50° C., 1.1 g of 3-carboxy-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole are obtained in the form of a whitish solid melting at 245° C.

reactant | lithium hydroxide monohydrate | 15 mmol, 0.63 g | O.[OH-].[Li+]
reactant | 1-(isoquinol-1-yl)-3-methoxycarbonyl-4-methyl-1H-pyrrole | 5 mmol | C1(=NC=CC2=CC=CC=C12)N1C=C(C(=C1)C)C(=O)OC | C16H14N2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 3-Carboxy-1-(isoquinol-1-yl)-4-methyl-1H-pyrrole | C(=O)(O)C1=CN(C=C1C)C1=NC=CC2=CC=CC=C12 | C15H12N2O2
